US09284323B2
Preparation of (S)-ethyl 2-(3,4-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate:
To a solution of ethyl 2-(3,4-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate (3.93 g, 9.72 mmol) and (R)-2-methyl-CBS-oxazaoborolidine (0.539 g, 1.94 mmol) in anhydrous toluene (30 mL) at −40° C. was added dropwise a solution of catecholborane (1.40 mL, 13.22 mmol) in toluene (5 mL) over 20 minutes to give a pale yellow reaction mixture. The reaction mixture was stirred for another 20 minutes and quenched with saturated sodium carbonate solution and ethyl acetate was added. The mixture was stirred for 30 minutes, the aqueous layer removed and the organic layer washed with saturated sodium carbonate solution (3×), brine and dried (MgSO4) and filtered. Concentration and purification by flash column chromatography (silica gel, 0 to 20% ethyl acetate/hexanes) gave the desired product. LCMS-ESI+ (m/z): [M+Na]+ calcd for C17H17F3NaO6S: 429.37. Found: 428.8.

reactant | ethyl 2-(3,4-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate | 9.72 mmol, 3.93 g | CC=1C(=C(C2=CC=CC=C2C1C)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)=O | C17H15F3O6S
reactant | catecholborane | 13.22 mmol, 1.40 mL | [B]1OC2=CC=CC=C2O1 | C6H4BO2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-ethyl 2-(3,4-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate | CC=1C(=C(C2=CC=CC=C2C1C)OS(=O)(=O)C(F)(F)F)[C@@H](C(=O)OCC)O | C17H17F3O6S
